US07030130B2
N-{4-[4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6,7-dimethoxy-benzofuran-2-ylmethylsulfanyl]-phenyl}-acetamide;
formic acid salt (20 mg) was obtained by reacting 5-(2-chloromethyl-6,7-dimethoxy-benzofuran-4-ylmethyl)-pyrimidine-2,4-diamine (52 mg, 0.151 mmol), NaH (12 mg, 0.303 mmol), and 4-acetaminothiophenol (56 mg, 0.303 mmol).

reactant | 5-(2-chloromethyl-6,7-dimethoxy-benzofuran-4-ylmethyl)-pyrimidine-2,4-diamine | 0.151 mmol, 52 mg | ClCC=1OC2=C(C1)C(=CC(=C2OC)OC)CC=2C(=NC(=NC2)N)N | C16H17ClN4O3
reactant | NaH | 0.303 mmol, 12 mg | [H-].[Na+]
reactant | 4-acetaminothiophenol | 0.303 mmol, 56 mg | N(C(=O)C)C1=CC=C(C=C1)S | C8H9NOS
solvent | formic acid | 20 mg | C(=O)O | CH2O2
product | N-{4-[4-(2,4-Diamino-pyrimidin-5-ylmethyl)-6,7-dimethoxy-benzofuran-2-ylmethylsulfanyl]-phenyl}-acetamide | NC1=NC=C(C(=N1)N)CC1=CC(=C(C2=C1C=C(O2)CSC2=CC=C(C=C2)NC(C)=O)OC)OC | C24H25N5O4S
